
// Schmitt Trigger Characterization Testbench
// Transient simulation
simulator lang=spectre
global 0

// include model card
include "/home/shunqidai/Sizing/SizingDemoLinuxSpectre_integer_stdcell/smic011/models/spectre/ms011_ms013s_io33_v1p24_spe.lib" section=snfp

parameters w1 = 2.46  l1 = 0.3  w2 = 1.74  l2 = 0.3  w3 = 1.29  l3 = 0.3  w4 = 4.13  l4 = 0.35  w5 = 0.56  l5 = 0.35  w6 = 1.08  l6 = 0.35  

// the power supply 3.3 V and current bias
vdd    (dd  0)   vsource  dc=vdd     type=dc

// the input signal for dc and tran simulation
vin    (in 0)     vsource  type=pwl	   wave=[0 0 1e-3 vdd 2e-3 0]

// the circuit
include    "/home/shunqidai/Sizing/SizingDemoLinuxSpectre_integer_stdcell/smic011/ckt_netlist/schmitt_trigger.scs" 
Xschmitt_trigger  (dd 0 in out)  schmitt_trigger 
cl 	   (out 0) 					capacitor  c=cload

// Sprctre Analyses and Output Options
// Output Options
simulatorOptions options 
+    reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 
+    tnom=27 scalem=1.0 scale=1.0e-6 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 
+    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" 
+    checklimitdest=psf 

// Analyses
outtran1 tran start=0.0 stop=2e-3 annotate=status 
saveOptions options save=allpub subcktprobelvl=2
// maxstep=0.01e-3 
// end of file
